* Testing AM/PM using ihp transistor
.lib "./ihp/cornerHBT.lib" hbt_typ
*
* -------------------------------------------------------------------------------
* f(x) = x^2
* i = f( v + vn )
* v = v1*cos(w*t)
* ------ Calculations -----------------------------------------------------------

.param VccVal = 2.5
.param VbbVal = 1.0
.param RcVal = 200
.param ReVal = 10

Vdc1 n_vcc 0 DC {VccVal}
Vdc2 n_vbb 0 DC {VbbVal}
Vrf n_vb n_vbb SIN(0 100m 10e9 0 0 90) ac 1 ;

X1 n_vc n_vb n_ve 0 npn13G2

Rc n_vcc n_vc {RcVal} ; 
Re n_ve 0 {ReVal} ; 

* .DC VbbVal 0 2 0.5
* .print dc v(n_vc) 

.hb 10e9
.options hbint numfreq=10 tahb=2
* .options linsol-hb type=belos 
* .options nonlin-hb abstol=1e-8
.print hb V(n_vc) I(Re)

.hbnoise V(n_vc) 1 DEC 1 0.001 10
.print hbnoise amnoise pmnoise dan(X1:Qnpn13G2)
* .print hbnoise {abs(amnoise)} pmnoise dan(R1) dpn(R1)

* .noise V(n_vc) Vrf DEC 2 1 10
* .print noise onoise dno(X1:Qnpn13G2)
